US07851634B2
d) Acetic acid 4-(4-methoxy-butyl)-pyridin-3-yl ester
To a degassed solution of 9.9 mmol acetic acid 4-(4-methoxy-but-1-ynyl)-pyridin-3-yl ester and 0.51 mmol quinoline in 230 ml ethyl acetate is added 0.56 mmol 10% Pd/C. The suspension is vigorously stirred under an atmospheric pressure of hydrogen for 2 hours. The catalyst is removed by filtration and the solvent is evaporated. The title compound is obtained from the residue by means of flash chromatography (SiO2 60 F) and identified based on its Rf value.

reactant | acetic acid 4-(4-methoxy-but-1-ynyl)-pyridin-3-yl ester | 9.9 mmol | COCCC#CC1=C(C=NC=C1)OC(C)=O | C12H13NO3
reactant | quinoline | 0.51 mmol | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 230 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.56 mmol | [Pd] | Pd
product | Acetic acid 4-(4-methoxy-butyl)-pyridin-3-yl ester | COCCCCC1=C(C=NC=C1)OC(C)=O | C12H17NO3
